### PR TITLE
[Merged by Bors] - feat(Nat/Log): add lemma for `log b (n / b ^ k)`

### PR DESCRIPTION
**Pull request by b-mehta**
This lemma is a simple consequence of the previous by induction, but is often useful for calculation, especially since the natural number division and natural number subtraction play very nicely here.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Log.lean [hunk 1]
```diff
@@ -215,6 +215,13 @@ theorem log_div_base (b n : ℕ) : log b (n / b) = log b n - 1 := by
   · rw [div_eq_of_lt h, log_of_lt h, log_zero_right]
   rw [log_of_one_lt_of_le hb h, Nat.add_sub_cancel_right]
 
+lemma log_div_base_pow (b n k : ℕ) : log b (n / b ^ k) = log b n - k := by
+  induction k with
+  | zero => grind
+  | succ k hk =>
+    rw [Nat.pow_succ, ← Nat.div_div_eq_div_mul]
+    grind [= Nat.log_div_base]
```
Comment (themathqueen) [inline Mathlib/Data/Nat/Log.lean]: might as well just do this in one line instead of invoking `grind`?
```suggestion
    rw [Nat.pow_succ, ← Nat.div_div_eq_div_mul, log_div_base, hk, sub_add_eq]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
